US07576215B2
3-[3-(2-CHLOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL
The title compound was prepared from [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone and (2-chloro-phenyl)-acetaldehyde following the procedure of Example 457: MS (ES) m/z 397.9; HRMS: calcd for C22H13ClF3NO+H+, 400.07105; found (ESI, [M+H]+), 400.0706.

reactant | [2-amino-3-(trifluoromethyl)phenyl]-(3-hydroxy-phenyl)methanone | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC(=CC=C1)O | C14H10F3NO2
reactant | (2-chloro-phenyl)-acetaldehyde | ClC1=C(C=CC=C1)CC=O | C8H7ClO
product | 3-[3-(2-CHLOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOL | ClC1=C(C=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C22H13ClF3NO
